US04067903
N-p-ethoxy-phenyl-α-naphthylamine
288 parts of α-naphthol, 411 parts of p-phenetidine and 8 parts of tribenzyl phosphite are mixed and heated to 218° C. At this temperature, the elimination of water commences. The reaction temperature rises to 250° C in the course of 10 hours. At that stage, the reaction has ended and 36 parts of water have been removed. After removing excess p-phenetidine, the N-p-ethoxy-phenyl-α-naphthylamine distils at a boiling point of 233° - 235° C/5 mm Hg. 479 parts of end product of melting point 72° - 75° C are obtained. This corresponds to a yield of 91% of theory.

reactant | α-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | p-phenetidine | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | tribenzyl phosphite | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H21O3P
solvent | water | O | H2O
product | N-p-ethoxy-phenyl-α-naphthylamine | yield of 91% | C(C)OC1=CC=C(C=C1)NC1=CC=CC2=CC=CC=C12 | C18H17NO
